US08735597B2
Step 2: Synthesis of 9-[4′-(Benzoxazol-2-yl)biphenyl-4-yl]-9H-carbazole (abbreviation: CzPBOx)
In a 100 mL three-neck flask were put 1.0 g (3.1 mmol) of 2-(4-iodophenyl)benzoxazole, 0.90 g (3.1 mmol) of 4-(9H-carbazol-9-yl)phenylboronic acid, and 0.067 g (0.22 mmol) of tri(ortho-tolyl)phosphine. To this mixture were added 30 mL of 1,2-dimethoxyethane (abbreviation: DME) and 30 mL of a 2M potassium carbonate aqueous solution. This mixture was degassed under reduced pressure, and then the atmosphere in the flask was replaced with nitrogen. To this mixture was added 7.0 mg (0.031 mmol) of palladium(II)acetate, and the resulting mixture was stirred at 90° C. for 5 hours while being heated. After that, toluene was added to this mixture, and the organic layer was washed with a saturated aqueous sodium carbonate solution and saturated brine in that order. After that, magnesium sulfate was added to the organic layer to dry it. Next, this mixture was suction filtered. The resulting filtrate was suction filtered through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855). The resulting filtrate was concentrated, followed by purification by silica gel column chromatography. As a developing solvent for the chromatography, toluene was used. The fraction obtained was concentrated to give a solid. This solid was recrystallized with a mixed solvent of chloroform and methanol to give 1.2 g of a white powdered solid in a yield of 88%.

reactant | 2-(4-iodophenyl)benzoxazole | 3.1 mmol, 1.0 g | IC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8INO
reactant | 4-(9H-carbazol-9-yl)phenylboronic acid | 3.1 mmol, 0.90 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=C(C=C1)B(O)O | C18H14BNO2
reactant | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
reactant | potassium carbonate | 2M | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II)acetate | 0.031 mmol, 7.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri(ortho-tolyl)phosphine | 0.22 mmol, 0.067 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9-[4′-(Benzoxazol-2-yl)biphenyl-4-yl]-9H-carbazole | 1.2 g, yield of 88% | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)C2=CC=C(C=C2)N2C1=CC=CC=C1C=1C=CC=CC21 | C31H20N2O
